US06933392B2
Step A: 2-Hydroxymethylene-5-methoxy-1-indanone
To a mixture of sodium methoxide (1.2 g, 22 mmol) in THF (20 mL) was added ethyl formate (1.6 g, 22 mmol) and 5-methoxy-1-indanone (3.24 g, 19.7 mmol) and the mixture stirred for 16 h at 23° C. The reaction mixture was added to aqueous HCl (0.1 N) and extracted with a mixture (1:1) of ethyl acetate and ether (2×20 mL). The combined organic extracts were dried (Na2SO4) and concentrated to a residue, which was purified by chromatography (silica, 40% ethyl acetate in hexanes) to give an oil (2.6 g, 69%): 1H NMR (CDCl3) δ 7.81 (d, J=9.6 Hz, 1H), 7.47 (s, 1H), 7.00 (m, 2H), 3.94 (s, 3H), 3.9 (m, 2H); MS m/z 191 [M+H]+.

reactant | sodium methoxide | 22 mmol, 1.2 g | C[O-].[Na+]
reactant | ethyl formate | 22 mmol, 1.6 g | C(=O)OCC | C3H6O2
reactant | 5-methoxy-1-indanone | 19.7 mmol, 3.24 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | HCl | 0.1 N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Hydroxymethylene-5-methoxy-1-indanone | 2.6 g, 69% | OC=C1C(C2=CC=C(C=C2C1)OC)=O | C11H10O3
